US06437118B1
7.24 g of 4,4,5,5-tetramethyl-2-vinyl-1,3,2dioxaborolan (46.4 mmol), 10.00 g of 5-iodocytosine (42.2 mmol), 1.11 g of triphenylphosphine (14.2 mmol), 1.05 g of Pd2dba3.CHCl3 (1.1 mmol) and 15.1 ml tributylamine (63.3 mmol) in 200 ml of methanol were heated to reflux for 28 hours. After cooling the suspension to room temperature the crude product was filtered off and washed with methylene chloride. Crystallisation from boiling methanol gave 3.9 g (61%) of 5-vinylcytosine as white crystals, m.p. >290° C., MS (EI-MS): (m/z) 137 [M+H]+. 1H-NMR (250 MHz, D6-DMSO): 5.03 (1H, d, J=11.0), 5.45 (1H, d, J=17.3), 6.52 (1H, dd, J=17.3, 11.0), 6.8-7.2 (3H, br), 7.56 (1H, s).

reactant | 4,4,5,5-tetramethyl-2-vinyl-1,3,2dioxaborolan | 46.4 mmol, 7.24 g | CC1(OB(OC1(C)C)C=C)C | C8H15BO2
reactant | 5-iodocytosine | 42.2 mmol, 10.00 g | IC=1C(=NC(NC1)=O)N | C4H4IN3O
reactant | triphenylphosphine | 14.2 mmol, 1.11 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tributylamine | 63.3 mmol, 15.1 ml | C(CCC)N(CCCC)CCCC | C12H27N
solvent | methanol | 200 ml | CO | CH4O
catalyst | Pd2dba3 | 1.05 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | CHCl3 | 1.1 mmol | C(Cl)(Cl)Cl | CHCl3
product | 5-vinylcytosine | 3.9 g, 61% | C(=C)C=1C(=NC(NC1)=O)N | C6H7N3O
